US04229449
A solution of 6.8 g of 2-[α-(2-methoxyphenoxy)-benzyl]-4-methyl-morpholin-3,5-dione in 40 ml of anhydrous tetrahydrofuran was added dropwise under stirring to a suspension of lithium aluminium hydride (1.9 g) in 35 ml of THF. The mixture was refluxed under stirring for 6 hours. Dropwise addition was then made at 0°-5° C. of 4.1 ml of 23% HCl and the whole was stirred at room temperature for 2 hours. The suspended solid was filtered and washed several times with THF. The combined filtrates were evaporated to dryness under reduced pressure. The residue was taken up with ethyl ether and 4 ml of 18% methanolic HCl was added. The amorphous hydrochloride precipitated which was washed several times with fresh ethyl ether. By filtration there was obtained 5.8 g of 2-[α-(2-methoxyphenoxy)-benzyl]-4-methyl-morpholine hydrochloride, melting point 67°-90° C. Yield 84%.

reactant | 2-[α-(2-methoxyphenoxy)-benzyl]-4-methyl-morpholin-3,5-dione | 6.8 g | COC1=C(OC(C2=CC=CC=C2)C2C(N(C(CO2)=O)C)=O)C=CC=C1 | C19H19NO5
reactant | lithium aluminium hydride | 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 4.1 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2-[α-(2-methoxyphenoxy)-benzyl]-4-methyl-morpholine hydrochloride | 5.8 g, Yield 84% | Cl.COC1=C(OC(C2=CC=CC=C2)C2CN(CCO2)C)C=CC=C1 | InChI=1S/C19H23NO3.ClH/c1-20-12-13-22-18(14-20)19(15-8-4-3-5-9-15)23-17-11-7-6-10-16(17)21-2;/h3-11,18-19H,12-14H2,1-2H3;1H
